US20010010890A1
Synthesis of adamantyl 2-trifluoromethylacrylate/5-oxo-4-oxatricyclo [4.2.1.03,7]nonan-2-yl acrylate (5:5) copolymer
In a 500-ml flask, 18 g of adamantyl 2-trifluoromethylacrylate and 10 g of 5-oxo-4-oxatricyclo[4.2.1.03,7]-nonan-2-yl acrylate were dissolved in 120 ml of toluene, oxygen was thoroughly purged from the system, and 0.63 g of an initiator AIBN was admitted. The flask was heated to 60° C., at which polymerization reaction was effected for 24 hours.

reactant | 5-oxo-4-oxatricyclo[4.2.1.03,7]-nonan-2-yl acrylate | 10 g | C(C=C)(=O)OC1C2CC3C(C(OC13)=O)C2 | C11H12O4
reactant | adamantyl 2-trifluoromethylacrylate | 18 g | FC(C(C(=O)OC12CC3CC(CC(C1)C3)C2)=C)(F)F | C14H17F3O2
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | adamantyl 2-trifluoromethylacrylate 5-oxo-4-oxatricyclo [4.2.1.03,7]nonan-2-yl acrylate | FC(C(C(=O)OC12CC3CC(CC(C1)C3)C2)=C)(F)F.C(C=C)(=O)OC1C2CC3C(C(OC13)=O)C2 | InChI=1S/C14H17F3O2.C11H12O4/c1-8(14(15,16)17)12(18)19-13-5-9-2-10(6-13)4-11(3-9)7-13;1-2-8(12)14-9-5-3-6-7(4-5)11(13)15-10(6)9/h9-11H,1-7H2;2,5-7,9-10H,1,3-4H2
